US04971982
248 mg of 3,4-dihydro-2,2-dimethyl-4-(3-methyl-2-pyridyl)-6-nitro-2H-1-benzopyran were dissolved in 20 ml of dichloromethane at room temperature and 222 mg of m-chloroperbenzoic acid were added. After stirring at room temperature overnight the solution was washed in succession with sodium bisulphite solution, sodium bicarbonate solution and water. The organic phase was dried over sodium sulphate and evaporated. The resulting solid was triturated with diethyl ether, filtered off and recrystallized from acetonitrile to give 133 mg of 2-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-yl) -3-methylpyridine N-oxide of melting point 218-220° C.

reactant | 3,4-dihydro-2,2-dimethyl-4-(3-methyl-2-pyridyl)-6-nitro-2H-1-benzopyran | 248 mg | CC1(OC2=C(C(C1)C1=NC=CC=C1C)C=C(C=C2)[N+](=O)[O-])C | C17H18N2O3
reactant | m-chloroperbenzoic acid | 222 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(3,4-dihydro-2,2-dimethyl-6-nitro-2H-1-benzopyran-4-yl) -3-methylpyridine N-oxide | 133 mg | CC1(OC2=C(C(C1)C1=[N+](C=CC=C1C)[O-])C=C(C=C2)[N+](=O)[O-])C | C17H18N2O4
